US04264605
6-(4-CHLOROPHENYLTHIO)-3-AMINOPYRIDINE
6-Chloro-3-nitropyridine (54.5 grams), 4-chlorothiophenol (50.0 grams), and lithium hydroxide (12.5 grams) were mixed in about 500 ml. of DMF and stirred overnight (about 18 hours) at room temperature. The reaction mixture was poured into ice-water, filtered, and the separated product washed three times with water and air dried, yield, 100 grams.

reactant | 6-Chloro-3-nitropyridine | 54.5 grams | ClC1=CC=C(C=N1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 4-chlorothiophenol | 50.0 grams | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | lithium hydroxide | 12.5 grams | [OH-].[Li+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(4-CHLOROPHENYLTHIO)-3-AMINOPYRIDINE | ClC1=CC=C(C=C1)SC1=CC=C(C=N1)N | C11H9ClN2S
